US07326791B2
(1R)-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)-2-hydroxyethyl]4-(2,5-dihydropyrrol 1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-chloro-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid, TBTU, N-methylmorpholine, and (1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-hydroxyethylamine in N,N-dimethylformamide. Yield: 20%; Rf value: 0.6 (silica gel; dichloromethane/methanol=95:5); C21H18Cl2N4O3 (445.31); mass spectrum: (M+H)+=445/447/449 (chlorine isotope) and (M+H)−=443/445/447 (chlorine isotope).

reactant | 3-chloro-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid | ClC=1C=C(C(=O)O)C=CC1C(=O)N1CC=CC1 | C12H10ClNO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | (1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-hydroxyethylamine | ClC1=CC2=C(NC(=N2)[C@H](CO)N)C=C1 | C9H10ClN3O
reactant | chlorine | ClCl | Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane methanol | ClCCl.CO
product | (1R)-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)-2-hydroxyethyl]4-(2,5-dihydropyrrol 1-ylcarbonyl)benzamide | Yield: 20% | ClC=1C=C(C(=O)N[C@@H](CO)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CC=CC1 | C21H18Cl2N4O3
